### PR TITLE
[Merged by Bors] - feat(Data.List): Add `List.nodup_permutations_iff`

### PR DESCRIPTION
**Pull request by casavaca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Perm.lean [hunk 1]
```diff
@@ -629,7 +630,24 @@ theorem nodup_permutations (s : List α) (hs : Nodup s) : Nodup s.permutations :
...
+  rw [← exists_duplicate_iff_not_nodup]
+  intro ⟨x, hs⟩
+  rw [duplicate_iff_sublist] at hs
+  obtain ⟨l, ht⟩ := List.Sublist.exists_perm_append hs
+  rw [List.Perm.nodup_iff (List.Perm.permutations ht)]
+  rw [← exists_duplicate_iff_not_nodup]
+  use x :: x :: l
+  rw [List.duplicate_iff_sublist]
+  rw [← permutations_first_two]
+  exact take_sublist 2 _
```
Comment (eric-wieser) [inline Mathlib/Data/List/Perm.lean:649]: Some slight golfing:
```

@[simp]
theorem nodup_permutations_iff {s : List α} : Nodup s.permutations ↔ Nodup s := by
  refine ⟨?_, nodup_permutations s⟩
  contrapose
  rw [← exists_duplicate_iff_not_nodup]
  intro ⟨x, hs⟩
  rw [duplicate_iff_sublist] at hs
  obtain ⟨l, ht⟩ := hs.exists_perm_append
  rw [ht.permutations.nodup_iff, ← exists_duplicate_iff_not_nodup]
  use x :: x :: l
  rw [duplicate_iff_sublist, ← permutations_first_two]
  exact take_sublist 2 _
```

File: Mathlib/Data/List/Perm.lean [hunk 2]
```diff
@@ -629,7 +630,24 @@ theorem nodup_permutations (s : List α) (hs : Nodup s) : Nodup s.permutations :
         rw [← hx, nthLe_insertNth_of_lt _ _ _ _ ht (ht.trans_le hn)]
         exact nthLe_mem _ _ _
 
--- TODO: `nodup s.permutations ↔ nodup s`
+lemma permutations_first_two (x y : α) (s : List α) :
```
Comment (eric-wieser) [inline Mathlib/Data/List/Perm.lean:633]: I think `permutations_take_two` would be a better name

File: Mathlib/Data/List/Perm.lean [hunk 3]
```diff
@@ -629,7 +630,22 @@ theorem nodup_permutations (s : List α) (hs : Nodup s) : Nodup s.permutations :
         rw [← hx, nthLe_insertNth_of_lt _ _ _ _ ht (ht.trans_le hn)]
         exact nthLe_mem _ _ _
 
--- TODO: `nodup s.permutations ↔ nodup s`
+lemma permutations_take_two (x y : α) (s : List α) :
+    (x :: y :: s).permutations.take 2 = [x :: y :: s, y :: x :: s] := by
+  induction s <;> simp only [take, permutationsAux, permutationsAux.rec, permutationsAux2, id_eq]
+
+theorem nodup_permutations_iff (s : List α) : Nodup s.permutations ↔ Nodup s := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Perm.lean:637]:
```suggestion
@[simp]
theorem nodup_permutations_iff {s : List α} : Nodup s.permutations ↔ Nodup s := by
```
as in my previous suggestion

**Review by eric-wieser — APPROVED** [review]
thanks!

bors merge
